US03979456
4[2-(α -methyl-phenethylamino)-propoxy]-cyclohexanophenone.
4-(2-oxo-propoxy)-cyclohexanophenone (0.02 mole) and α-methyl-phenethylamine (0.02 mole) are then heated in benzene solution. The water formed is removed by means of a Dean-Stark apparatus.

reactant | 4-(2-oxo-propoxy)-cyclohexanophenone | 0.02 mole | O=C(COC1CCC(CC1)C(=O)C1=CC=CC=C1)C | C16H20O3
reactant | α-methyl-phenethylamine | 0.02 mole | CC(CC1=CC=CC=C1)N | C9H13N
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4[2-(α -methyl-phenethylamino)-propoxy]-cyclohexanophenone | CC(CC1=CC=CC=C1)NC(COC1CCC(CC1)C(=O)C1=CC=CC=C1)C | C25H33NO2
